US06472393B1
4-[2-Amino-1-(4-benzyloxy-3-methoxy-phenyl)-ethylamino]-benzonitrile D (300 mg, 0.8 mmoles) was dissolved in ethanol (3 ml) and hydroxylamine-hydrochloride (350 mg, 5 mmoles) and triethylamine (1 ml, 5.7 mmoles) were added. The reaction was heated to 65-70 degrees C. for 2 hours. The residue was taken up in ethyl acetate and water. The organic layer was separated, dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and replaced with 4 ml methanol with 0.5 ml acetic acid. Raney nickel (ca. 300 ul suspension in sodium hydroxide, Aldrich) was added and the reaction placed under a hydrogen atmosphere. The reaction was stirred vigorously for 3 hours, the catalyst filtered off and the solvent removed in vacuo. The crude product was purified by flash chromatography on silica gel (ethyl acetate:acetone:methanol:ammonia, 2:1:1:0.05) to yield 160 mgs of 4-[2-Amino-1-(4-benzyloxy-3-methoxy-phenyl)-ethylamino]-benzamidine E. MS (M+H)=391.

reactant | 4-[2-Amino-1-(4-benzyloxy-3-methoxy-phenyl)-ethylamino]-benzonitrile | NCC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)NC1=CC=C(C#N)C=C1 | C23H23N3O2
reactant | hydroxylamine-hydrochloride | 5 mmoles, 350 mg | Cl.NO
reactant | triethylamine | 5.7 mmoles, 1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-[2-Amino-1-(4-benzyloxy-3-methoxy-phenyl)-ethylamino]-benzamidine | 160 mgs | NCC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)NC1=CC=C(C(=N)N)C=C1 | C23H26N4O2
